US07754737B2
tert-Butyl 3-((3-methoxypropoxy)(2-fluorophenyl)methyl)piperidine-1-carboxylate (28.0 mg, 0.07 mmol) was dissolved in 4 N HCl in dioxane. The resulting solution was stirred at rt until no starting material was left (˜30 min). The solvent was removed in vacuo to give 3-((3-methoxypropoxy)(2-fluorophenyl)methyl)piperidine hydrochloride as an oil. MS ESI+ve m/z 282 (M+1).

reactant | tert-Butyl 3-((3-methoxypropoxy)(2-fluorophenyl)methyl)piperidine-1-carboxylate | 0.07 mmol, 28.0 mg | COCCCOC(C1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)F | C21H32FNO4
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-((3-methoxypropoxy)(2-fluorophenyl)methyl)piperidine hydrochloride | Cl.COCCCOC(C1CNCCC1)C1=C(C=CC=C1)F | InChI=1S/C16H24FNO2.ClH/c1-19-10-5-11-20-16(13-6-4-9-18-12-13)14-7-2-3-8-15(14)17;/h2-3,7-8,13,16,18H,4-6,9-12H2,1H3;1H
